US07691882B2
1-Bromo-4-butoxymethyl-benzene
To a solution of 4-bromobenzyl alcohol (10.0 g, 53.5 mmol) in N,N-dimethylformamide (200 mL) was added sodium hydride (3.08 g, 64.2 mmol, 50% in oil) at 0° C. This mixture was stirred for 5 minutes at 0° C., and 1-bromobutane (7.47 mL, 69.3 mmol) was added thereto at 0° C. This mixture was stirred for 40 minutes at room temperature and then stirred for 25 minutes at 70° C. The reaction solution was partitioned into water and ethyl acetate at 0° C. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=20:1) to obtain the title compound (11.5 g, 89%).

reactant | 4-bromobenzyl alcohol | 53.5 mmol, 10.0 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | sodium hydride | 64.2 mmol, 3.08 g | [H-].[Na+]
reactant | 1-bromobutane | 69.3 mmol, 7.47 mL | BrCCCC | C4H9Br
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 1-Bromo-4-butoxymethyl-benzene | 11.5 g, 89% | BrC1=CC=C(C=C1)COCCCC | C11H15BrO
